US05330998
N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]-4-[(thiazolidine-2,4-dion-5-ylidene)methyl]benzamide
4-[(5-Methyl-2-phenyl-4-oxazolyl)methylaminocaronyl]benzaldehyde (0.880 g, 2.75 mmol), thiazolidine-2,4-dione (0.483 g, 4.12 mmol) and sodium acetate(0.676 g, 8.24 mmol) were intimately mixed and heated at 140°-145° C. for 45 minutes, then cooled to room temperature, the solids triturated and stirred with mL of water for 30 minutes and 1.20 g of present title product recovered by filtration; mp 235°-237° C. (dec); tlc Rf 0.2 (3:1 ethyl acetate:hexane).

reactant | 4-[(5-Methyl-2-phenyl-4-oxazolyl)methylaminocaronyl]benzaldehyde | 2.75 mmol, 0.880 g | CC1=C(N=C(O1)C1=CC=CC=C1)CNC1(C(C2(C(CC1)C2(C)C)C2=CC=C(C=O)C=C2)=O)C | C28H30N2O3
reactant | thiazolidine-2,4-dione | 4.12 mmol, 0.483 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 8.24 mmol, 0.676 g | C(C)(=O)[O-].[Na+]
product | N-[(5-Methyl-2-phenyl-4-oxazolyl)methyl]-4-[(thiazolidine-2,4-dion-5-ylidene)methyl]benzamide | CC1=C(N=C(O1)C1=CC=CC=C1)CNC(C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O)=O | C22H17N3O4S
